US09162987B2
4-Iodo-6-(2-hydroxyphenyl)pyrimidine (ACT-MIF-016)
The compound was prepared according to Example 1 using 2-trifluoromethoxyphenylboronic acid and 4,6-dichloropyrimidine. The resultant chloro compound was converted to iodo with hydroiodic acid as described in the general procedure.

reactant | 2-trifluoromethoxyphenylboronic acid | FC(OC1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O3
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | hydroiodic acid | I | HI
product | 4-Iodo-6-(2-hydroxyphenyl)pyrimidine | IC1=NC=NC(=C1)C1=C(C=CC=C1)O | C10H7IN2O
